US04791110
3,6-dichloro-4-t-butylpyridazine
A 375 g. portion of 3,6-dichloropyridazine was slurried with 578 g. of pivalic acid in 367 g. of sulfuric acid and 1500 ml. of water, and the mixture was warmed to 40°. Then 48.2 g. of silver nitrate was added, and the mixture was heated to 62°. To it was added 1 kg. of ammonium persulfate in 2 liters of water over a period of 1 hour. The temperature rose exothermically, and was controlled at 80° maximum. After the addition, the mixture was stirred for 15 minutes, and was then cooled to 15° with an ice-water bath. The mixture was then cooled further by the addition of ice, and its pH was adjusted to 9 with ammonium hydroxide. It was then stirred vigorously for 1 hour, while gummy material was scraped from the sides of the vessel as needed. It was then filtered, and the solids were washed with 2 liters of water and dried on the filter pad. The solids were then slurried in 5 liters of diethyl ether and the slurry was filtered. The filtrate was washed three times with 500 ml. portions of 1N sodium hydroxide, and the washes were combined and extracted with 500 ml. of diethyl ether. That ether was combined with the first ether filtrate, and was washed with 500 ml. of brine. The organic layer was dried over magnesium sulfate and carbon treated at the reflux temperature. It was then cooled and filtered through diatomaceous earth, and the filtrate was evaporated under vacuum to obtain 449 g. of the desired intermediate.

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | pivalic acid | C(C(C)(C)C)(=O)O | C5H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 2 liters | O | H2O
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
product | 3,6-dichloro-4-t-butylpyridazine | ClC=1N=NC(=CC1C(C)(C)C)Cl | C8H10Cl2N2
